US06962914B2
2-(4-Chloro-2-pyridinyl)-1-(4-methoxyphenyl)ethanone was synthesized from 4-chloro-2-picoline (10 g, 78.4 mmol) and ethyl 4-methoxybenzoate (14.1 g, 78.4 mmol) as described in Example 12 to give the product as a mixture of enol and keto tautomers. MS m/z 262 (M+1).

reactant | 4-chloro-2-picoline | 78.4 mmol, 10 g | ClC1=CC(=NC=C1)C | C6H6ClN
reactant | ethyl 4-methoxybenzoate | 78.4 mmol, 14.1 g | COC1=CC=C(C(=O)OCC)C=C1 | C10H12O3
product | 2-(4-Chloro-2-pyridinyl)-1-(4-methoxyphenyl)ethanone | ClC1=CC(=NC=C1)CC(=O)C1=CC=C(C=C1)OC | C14H12ClNO2
